US07485739B2
Preparation of 1,2-bis(di-isopropylphosphinomethyl)ferrocene
The title compound was prepared in accordance with the procedure of Example 2 employing di-iso-propylphosphine (Digital Speciality Chemicals 392 mg, 3.33 mmol), 1,2-bis(dimethylaminomethyl)ferrocene (0.5 g, 1.66 mmol) and anhydrous acetic acid (100 ml). Yield 0.262 g.

reactant | di-iso-propylphosphine | 3.33 mmol, 392 mg | C(C)(C)PC(C)C | C6H15P
reactant | 1,2-bis(dimethylaminomethyl)ferrocene | 1.66 mmol, 0.5 g | CN(C)C[C-]1C(=CC=C1)CN(C)C.[CH-]1C=CC=C1.[Fe+2]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1,2-bis(di-isopropylphosphinomethyl)ferrocene | C(C)(C)P(C(C)C)C[C-]1C(=CC=C1)CP(C(C)C)C(C)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C19H35P2.C5H5.Fe/c1-14(2)20(15(3)4)12-18-10-9-11-19(18)13-21(16(5)6)17(7)8;1-2-4-5-3-1;/h9-11,14-17H,12-13H2,1-8H3;1-5H;/q2*-1;+2
